US06093758
Hexakis(4-benzyloxyphenoxy)cyclotriphosphazene (N3P3 (OC6H4OC7H7)6)
A suspension of 20.00 g (5.74×10-2 mol) of hexachlorocyclotriphosphazene, 22.99 g (0.57 mol) of NaH 60% oil dispersion, and 1.5 g of tetrabutylammonium bromide in 200 mL of THF is treated with 115.1 g (0.57 mol) of 4-(benzyloxy)phenol in 250 mL of THF. This treatment is performed dropwise, waiting each time for hydrogen evolution. The reaction mixture is successively refluxed for 48 hrs, cooled to room temperature, and ultracentrifuged at 8000 rpm to separate the liquid from the solid. The liquor is evaporated to dryness with a rotovap. The solid brown paste obtained is treated successively with methanol to obtain a white powder which is isolated by filtration, thoroughly washed with water and methanol, and dried. The resulting Hexakis(4-benzyloxyphenoxy)cyclotriphosphazene trimer is purified by multiple crystallizations from 50% THF/CH3OH mixtures.

reactant | hexachlorocyclotriphosphazene | 5.74×10-2 mol, 20.00 g | ClP1(=NP(=NP(=N1)(Cl)Cl)(Cl)Cl)Cl | Cl6N3P3
reactant | NaH | 0.57 mol, 22.99 g | [H-].[Na+]
reactant | 4-(benzyloxy)phenol | 0.57 mol, 115.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | hydrogen | [H][H] | H2
catalyst | tetrabutylammonium bromide | 1.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | Hexakis(4-benzyloxyphenoxy)cyclotriphosphazene | C(C1=CC=CC=C1)OC1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=C(C=C2)OCC2=CC=CC=C2)OC2=CC=C(C=C2)OCC2=CC=CC=C2)(OC2=CC=C(C=C2)OCC2=CC=CC=C2)OC2=CC=C(C=C2)OCC2=CC=CC=C2)OC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C78H66N3O12P3
